US04064106
2-Bromoethanol was reacted with the ammonium salt of dicyclohexylphosphinodithioic acid to obtain 2-hydroxyethyldicyclohexylphosphinodithioate, m.p. 82°-84° C, which on testing lasted 500 hours longer than the control. The total number of hours required to reach failure was 2.0 times that of the control.

reactant | 2-Bromoethanol | BrCCO | C2H5BrO
reactant | dicyclohexylphosphinodithioic acid | C1(CCCCC1)P(=S)(S)C1CCCCC1 | C12H23PS2
product | 2-hydroxyethyldicyclohexylphosphinodithioate | OCCSP(=S)(C1CCCCC1)C1CCCCC1 | C14H27OPS2
